US04221811
Over a period of 0.5 hour 9.25 g (0.025 mol) of (3-bromopropyl) tripropyltin was added to 25 ml of 3-dimethylaminopropyl amine at room temperature. The mixture was stirred for 1 hour at 60° C. Under cooling 75 ml of diethylether and 60 ml of a 15% aqueous solution of sodium bicarbonate were added. After stirring for 0.5 hour the organic phase was separated, dried and evaporated in vacuo. Distillation gave 7.5 g (77%) of Pr3Sn(CH2)3NH(CH2)3NMe2 ; b.p. 113°-114° C./0.1 mm Hg, nD20 =1.4855.

reactant | (3-bromopropyl) tripropyltin | 0.025 mol, 9.25 g | BrCCC[Sn](CCC)(CCC)CCC
reactant | 3-dimethylaminopropyl amine | 25 ml | CN(CCCN)C | C5H14N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethylether | 75 ml | C(C)OCC | C4H10O
product | Pr3Sn(CH2)3NH(CH2)3NMe2 | 7.5 g, 77% | [Sn](CCC)(CCC)(CCC)CCCNCCCN(C)C | InChI=1S/C8H19N2.3C3H7.Sn/c1-4-6-9-7-5-8-10(2)3;3*1-3-2;/h9H,1,4-8H2,2-3H3;3*1,3H2,2H3;
